Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Corgard / Vasotec
 
Attending: ___
 
Chief Complaint:
leg edema
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
 Mr. ___ is an ___ year old gentleman with history of CAD 
(s/p 3V CABG ___, LM PCI ___, pulmonary HTN, AFib on 
anticoagulation, ___ (EF 50%) who presents with volume overload 
and new found RV dilation on office echocardiogram.  
 Patient reports he has had 10 days of waking up feeling nervous 
and jittery. He also endorses weight gain, and new onset lower 
extremity swelling. He has not had chest pain, palpitations, 
orthopnea, or PND. He has not had any fevers, cough, recent 
travel, medication non compliance, increased salty food intake. 
He also has not had dyspnea on exertion and rides 4 miles per 
day on a stationary bike and does 6 minutes of weight lifting.  
 He presented to Dr. ___ today for evaluation. There 
he had a TTE that showed new RV dilation and was referred to the 
___ ED for further evaluation with concern for pulmonary 
embolism.  
 
 In the ED, initial vitals were:  
 T98. HR 70, BP 166/65, RR 16, 100% RA.  
 Exam in ED notable for bilateral pitting edema to knees. Labs 
notable for mild hyponatremia, Cr 1.1. ALT/AST mildly elevated 
at 81/64. WBC 4, Hgb 11.3, INR 1.3. DDimer <150. UA 
unremarkable.  
 CXR with mild cardiomegaly but no evidence of consolidation or 
pulmonary edema. CTA was negative for PE, showed severe 
emphysema and dilated pulmonary artery.  
 Patient received 20 mg IV Lasix with significant urine output 
per patient. He was then admitted to the heart failure service 
for acute heart failure exacerbation and further workup of RV 
dilation.  
 Vitals on transfer: Afebrile, HR 66, BP 129/54, RR 19, 95%RA.  
 
 On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
 
 Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, palpitations, syncope 
or presyncope.  
 

 
Past Medical History:
Past Medical History:
BILATERAL MODERATE CAROTID DISEASE 
CONGESTIVE HEART FAILURE 
CORONARY ARTERY DISEASE 
GASTROESOPHAGEAL REFLUX 
HYPERTENSION 
SEVERE EMPHYSEMA 
PULMONARY HYPERTENSION 
RIGHT BUNDLE BRANCH BLOCK 
BENIGN PROSTATIC HYPERTROPHY 
HYPERLIPIDEMIA 
PAROXYSMAL ATRIAL FIBRILLATION 
H/O HISTIOPLASMOSIS 

Past Surgical History:
CARDIOVERSION ___ 
RIGHT LOWER LOBE LOBECTOMY ___ 
CORONARY BYPASS SURGERY ___ 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION
Vitals: 98 159/62 16 98% on RA weight 143 lbs (bed scale)  
 General: very pleasant older gentleman lying in bed speaking in 
full sentences in NAD  
 HEENT: PERRL, EOMI, no scleral icterus, oropharynx clear  
 Neck: supple, JVP at 6cm, no adenopathy  
 CV: regular rate and rhythm, normal S1, physiologic split S2, 
___ systolic murmur at LLSB. No rubs or gallops.  
 Lungs: CTAB, no crackles, wheezes, or rhonchi  
 Abdomen: soft, non distended, non tender to deep palpation, +BS 
 
 GU: no CVA tenderness, no foley  
 Extr: warm, well perfused, 2+ pulses in radial and DP, 2+ edema 
in bilateral lower extremities to knees  
 Neuro: aoxo3, CN2-12 grossly intact, moving all 4 extremities 
without deficit, stable gait  
 Skin: warm, well perfused, dry, no rashes or lesions  

DISCHARGE
Vitals: 98.3 100-121/49-59 54-62 18 96RA
Tele: no tele
Last 8 hours I/O: ___
Last 24 hours I/O: 1200/3150
Weight on admission: 64.3
Today's weight: 63.1

General: elderly, NAD  
Neck: JVP at base of clavicle when 90 degrees
Lungs:  CTAB no crackles
CV: RRR, split S2
Abdomen: slightly obese, soft, NTND, NABS
Ext: no edema
 
Pertinent Results:
ADMISSION
___ 04:02PM BLOOD WBC-4.0 RBC-4.32* Hgb-11.3* Hct-35.1* 
MCV-81* MCH-26.2 MCHC-32.2 RDW-16.3* RDWSD-48.3* Plt ___
___ 04:02PM BLOOD ___ PTT-35.8 ___
___ 04:02PM BLOOD Glucose-93 UreaN-17 Creat-1.1 Na-131* 
K-3.8 Cl-93* HCO3-27 AnGap-15
___ 04:02PM BLOOD ALT-81* AST-64* AlkPhos-89 TotBili-0.7
___ 04:02PM BLOOD CK-MB-3 cTropnT-<0.01 proBNP-1284*
___ 04:02PM BLOOD Albumin-4.2 Calcium-9.7 Mg-2.2
___ 04:34PM BLOOD D-Dimer-<150
___ 04:02PM BLOOD TSH-3.0

DISCHARGE
___ 04:04AM BLOOD WBC-6.5# RBC-4.57* Hgb-12.2* Hct-36.8* 
MCV-81* MCH-26.7 MCHC-33.2 RDW-16.4* RDWSD-47.8* Plt ___
___ 04:04AM BLOOD ___ PTT-34.1 ___
___ 04:04AM BLOOD Glucose-113* UreaN-32* Creat-1.4* Na-133 
K-3.9 Cl-94* HCO3-26 AnGap-17
___ 04:04AM BLOOD ALT-79* AST-57* AlkPhos-83 TotBili-0.6
___ 04:04AM BLOOD Calcium-10.0 Phos-4.4 Mg-2.0

ECHO ___
The left atrium is moderately dilated. The right atrium is 
moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. Left ventricular wall thicknesses and cavity size 
are normal. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the mid-anterior and mid-distal 
inferior wall. The estimated cardiac index is normal 
(>=2.5L/min/m2). Doppler parameters are indeterminate for left 
ventricular diastolic function. The right ventricular cavity is 
mildly dilated with depressed free wall contractility (RV free 
wall is not well seen). The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. Moderate [2+] tricuspid 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. The pulmonic valve leaflets are 
thickened. There is no pericardial effusion. 

IMPRESSION: Mild regional left ventricular dysfunction c/w 
multivessel CAD, with overall mildly depressed global systolic 
function. Mildly dilated right ventricle with depressed free 
wall systolic function. Moderate tricuspid regurgitation with 
moderate pulmonary hypertension.  
 
Brief Hospital Course:
Mr. ___ is an ___ year old gentleman with history of CAD 
(s/p CABG and PCI), pAF, PAH, diastolic CHF who presents with 
weight gain, leg swelling and new evidence of right ventricle 
dilation concerning for acute on chronic heart failure 
exacerbation.  

#Acute on Chronic Diastolic Heart Failure Exacerbation: with 
component of RV failure by report of OSH echo.  Likely primary 
process is lung disease causing elevated RV pressures and 
subsequent poor filling of LV.  He diuresed quite well with 20 
IV Lasix which is consistent with RV failure.  Started on 
torsemide 10 daily but this is likely too aggressive.  We 
obtained an echo but read PND at time of discharge.  We sent him 
home on a diuretic regimen on torsemide 5 mg daily (and 
discontinued home triamterene-HCTZ).  Close follow up with Dr. 
___ ensured.

#Elevated Transaminases:  Patient with mildly elevated AST and 
ALT. Most likely etiologies in this patient include amiodarone 
toxicity and congestive hepatopathy.  Encouraged outpatient 
trending. 

#Pulmonary disease: patient with extensive emphysema on CTA 
though patient has no history of smoking.  As this may be 
driving R heart failure, Dr. ___ requested pulmonology 
consult prior to discharge but patient was insistent on leaving. 
 Instead scheduled outpatient appointment. 
 
#Atrial Fibrillation: Continue home amiodarone 200mg daily, 
Apixaban 5mg BID  

#CAD: Continue ASA 81mg, rosuvastatin 40mg qHS  

#HTN: continue home losartan 25mg qD.

TRANSITIONAL ISSUES
[] New medication: Torsemide 5 mg daily
[] Discontinued triamterene/HCTZ in favor of above
[] LFTs mild elevated in house; consider possible 
discontinuing/changing amiodarone
[] Please check LFT's and Creatinine at follow up appointment as 
these were elevated while hospitalized
[] Follow up appointment with cardiology, Dr. ___
[] Follow up appointment with pulmonology
[] Follow up appointment with PCP

***Discharge weight 63.1 kg***  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Losartan Potassium 25 mg PO DAILY 
6. Omeprazole 10 mg PO DAILY 
7. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
8. Senna 17.2 mg PO HS 
9. Align (bifidobacterium infantis) 4 mg oral DAILY 
10. coenzyme Q10 100 mg oral DAILY 
11. Rosuvastatin Calcium 40 mg PO QPM 
12. Vitamin D 1000 UNIT PO DAILY 
13. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1. Amiodarone 200 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Losartan Potassium 25 mg PO DAILY 
6. Rosuvastatin Calcium 40 mg PO QPM 
7. Senna 17.2 mg PO HS 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth once a day Disp 
#*30 Capsule Refills:*0
8. Vitamin D 1000 UNIT PO DAILY 
9. Torsemide 5 mg PO DAILY 
RX *torsemide 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
10. Align (bifidobacterium infantis) 4 mg oral DAILY 
11. coenzyme Q10 100 mg oral DAILY 
12. Omeprazole 10 mg PO DAILY 
13. Tamsulosin 0.4 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Acute on chronic diastolic congestive heart failure
Cor pulmonale

Secondary:
Pulmonary hypertension
Paroxysmal atrial fibrillation
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized for progressive leg swelling over the past 
week and a half.  We started you on a new medication here that 
should help prevent this from happening.  Of note, Dr. ___ was 
concerned about a clot in your lungs, but our scans showed NO 
clot.  With this news, you were discharged home with PCP and 
cardiology follow up.

Please continue to take your torsemide in order to maintain your 
weight. Please weight yourself everyday and call your 
cardiologist if you weight changes by three pounds.

You also have "pulmonary hypertension," which may be due to your 
underlying lung disease. Amiodarone can also cause lung changes 
and we recommend following up with the lung doctors as ___ 
outpatient to see if this may be contributing. 

It was a pleasure taking care of you!
Your ___ team
 
Followup Instructions:
___